US04634707
Preparation of N-(4-fluorophenyl)-1,2,3,4-tetrahydro-6-hydroxy-4-oxo-2-thioxo-5-pyrimidinecarboxamide
2-thiobarbituric acid (14.4 g) was suspended in pyridine and 4-fluorophenyl isocyanate (13.7 g) was added thereto. The reaction mixture was maintained at 90° C. for one hour, and thereafter left overnight at room temperature. The solids formed were collected, washed with pyridine, re-suspended in ethanol, and again collected and dried. A pale pink powder product was thereby obtained, mp >250° C. (dec.), NMR (DMSO) 7.0-7.7δ (multiplet, integral 4); 10.7-11.4δ (overlapping broad singlets, combined integral 4). MS, M/e 281 (Calc., 281).

reactant | 2-thiobarbituric acid | 14.4 g | N1C(=S)NC(=O)CC1=O | C4H4N2O2S
reactant | 4-fluorophenyl isocyanate | 13.7 g | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-(4-fluorophenyl)-1,2,3,4-tetrahydro-6-hydroxy-4-oxo-2-thioxo-5-pyrimidinecarboxamide | FC1=CC=C(C=C1)NC(=O)C=1C(NC(NC1O)=S)=O | C11H8FN3O3S
